vdr_parallel_network - fault test
I1 0 T DC 0.012
R1 T 0 6034.736124
R2 T 0 12196.874744
R3 T 0 11991.68706
.op
.control
run
print v(T)
print @r1[i] @r2[i] @r3[i]
print @i1[i]
.endc
.end
